US08071779B2
(S)—N-(Pyrrolidin-3-yl)isoquinolin-5-amine
Reaction of (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate and 5-bromoisoquinoline using the method of Example 16 followed by deprotection using the method of Example 4 afforded the title compound.

reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 5-bromoisoquinoline | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
product | (S)—N-(Pyrrolidin-3-yl)isoquinolin-5-amine | N1C[C@H](CC1)NC=1C=2C=CN=CC2C=CC1 | C13H15N3
